US03933823
a. (3-Methyl-5-isoxazolyl)aminomethyleneacetoacetic acid ethyl ester
98 g. of 3-methyl-5-aminoisoxazole (1 mol.) and 186 g. of ethoxymethyleneacetoacetic acid ethyl ester (1 mol.) are heated with stirring for 45 minutes at 130°. After this period, ethanol is removed under reduced pressure. The residue solidifies on cooling and is recrystallized from ethanol, m.p. 93°-95°, yield 208 g. (87%).

reactant | 3-methyl-5-aminoisoxazole | 1 mol | CC1=NOC(=C1)N | C4H6N2O
reactant | ethoxymethyleneacetoacetic acid ethyl ester | 1 mol | C(C)OC(CC(=O)C=COCC)=O | C9H14O4
product | (3-Methyl-5-isoxazolyl)aminomethyleneacetoacetic acid ethyl ester | C(C)OC(CC(=O)C=CNC1=CC(=NO1)C)=O | C11H14N2O4
